US08461179B1
TFA (10 mL, 134 mmol) was added to a solution of 7-((4-methoxybenzyl)(methyl)amino)-3-(5-amino-2-chlorophenyl)-1-methyl-1,6-naphthyridin-2(1H)-one (4 g, 9.2 mmol) in DCM (50 mL) and heated to reflux for 3 h. The reaction mixture was concentrated under reduced pressure, dissolved in HCl, washed with EtOAc (3×), neutralized with satd. Na2CO3 and extracted with EtOAc (3×). The combined extracts were washed with brine, dried over Na2SO4, concentrated under reduced pressure and purified by chromatography to give 3-(5-amino-2-chlorophenyl)-1-methyl-7-(methylamino)-1,6-naphthyridin-2(1H)-one (1.7 g, 58% yield). 1H NMR (400 MHz, DMSO-d6): δ 8.36 (s, 1H), 7.63 (s, 1H), 7.06-7.00 (m, 2H), 6.54-6.50 (m, 2H), 6.14 (s, 1H), 5.21 (s, 2H), 3.48 (s, 3H), 2.84 (d, J=4.8 Hz, 3H); MS (ESI) m/z: 314.9 [M+H]+.

reactant | TFA | 134 mmol, 10 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | 7-((4-methoxybenzyl)(methyl)amino)-3-(5-amino-2-chlorophenyl)-1-methyl-1,6-naphthyridin-2(1H)-one | 9.2 mmol, 4 g | COC1=CC=C(CN(C2=NC=C3C=C(C(N(C3=C2)C)=O)C2=C(C=CC(=C2)N)Cl)C)C=C1 | C24H23ClN4O2
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | 3-(5-amino-2-chlorophenyl)-1-methyl-7-(methylamino)-1,6-naphthyridin-2(1H)-one | 1.7 g, 58% yield | NC=1C=CC(=C(C1)C=1C(N(C2=CC(=NC=C2C1)NC)C)=O)Cl | C16H15ClN4O
